US04727073
A mixture of 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-thioureidomethylpyrimidine (0.7 g) and methyl iodide (0.31 g) in N,N-dimethylformamide (20 ml) was stirred for 7 hours at a room temperature. After evaporating the solvent in vacuo, the residual product was dissolved in ethanol (14 ml). Ethylenediamine (0.33 g) was added thereto and refluxed for 2 hours. After cooling, the reaction mixture was poured into a mixture of chloroform (50 ml) and water (100 ml), and adjusted pH to 11.0 with 10% aqueous potassium carbonate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over magnesium sulfate, evaporated in vacuo. The residual product was subjected to column chromatography on alumina eluting with a mixture of chloroform and methanol (50:1). The fractions containing the object compound were combined and concentrated in vacuo. The residue was recrystallized from ethanol to give 5-(1-imidazolin-2-ylaminomethyl)-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine (0.06 g).

reactant | 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-thioureidomethylpyrimidine | 0.7 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])CNC(=S)N | C19H17N5O2S
reactant | methyl iodide | 0.31 g | CI | CH3I
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-(1-imidazolin-2-ylaminomethyl)-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine | 0.06 g | N1=C(NCC1)NCC=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C21H20N6O2
